US04284631
A solution of ethyl 2-benzyloxyimino-3-oxobutyrate (syn isomer, 56.0 g.), sulfuryl chloride (40.5 g.) and acetic acid (80 ml.) was treated in a similar manner to that of Example A-(2) to give ethyl 2-benzyloxyimino-4-chloro-3-oxobutyrate (syn isomer, 54.6 g.).

reactant | ethyl 2-benzyloxyimino-3-oxobutyrate | 56.0 g | C(C1=CC=CC=C1)ON=C(C(=O)OCC)C(C)=O | C13H15NO4
reactant | sulfuryl chloride | 40.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-benzyloxyimino-4-chloro-3-oxobutyrate | 54.6 g | C(C1=CC=CC=C1)ON=C(C(=O)OCC)C(CCl)=O | C13H14ClNO4
